### ISSUE TITLE
RFC: show robust tactic state

### ISSUE THREAD

**Issue by fpvandoorn** [leanprover/lean4#4181]
### Proposal

The goal of this RFC is to have the tactic state not change too much while typing.
This is a complaint I have heard more than once from beginners: "The goal state is jumping around too much". You can pause the goal state, but this is a bit of an inconvenient workaround.

Examples with current behavior:
```lean
-- in each example place the pointer right before the `--`
example : True ∧ False ∧ True := by
  simp only [false_and]
  ex -- <no tactic state>, errors: unknown tactic / unsolved goals

example : True ∧ False ∧ True := by
  simp only [false_and]
  exact -- Tactic state: No goals / error: unexpected token 

example : True ∧ False ∧ True := by
  simp only [false_and]
  exact true -- Shows the correct tactic state / error: type mismatch

example : True ∧ False ∧ True := by
  simp only [false_and]
  exact true_ -- Tactic state: No goals / error: unknown identifier

example : True ∧ False ∧ True := by
  simp only [false_and]
  apply true_ -- Shows the correct tactic state / error: unknown identifier
```
**Desired behavior**: All examples should show the tactic state that is shown in examples 3 and 5.

  - **User Experience**: This should be a improvement for all users.

  - **Beneficiaries**: Especially new users, slow typers. But can affect anyone that tries to apply a tactic, see that it errors, and wants to easily see the previous tactic state.

  - **Maintainability**: Should not significantly impact maintainability.

**Implementation speculation**: Hopefully the first example can be fixed by having a rule that any non-existent tactic still shows the tactic state from the start of the line. And maybe example 2 can be fixed by having a parse error do the same?
Example 4 can probably be fixed in the implementation of `exact` (it works with `apply`, see example 5).

### Community Feedback

Ideas should be discussed on [the Lean Zulip](https://leanprover.zulipchat.com) prior to submitting a proposal. Summarize all prior discussions and link them here.

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others benefit from the changes in this proposal being added, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
Just crosslinking my work in that direction at https://github.com/leanprover/lean4/pull/4177.

You describe a fine goal; what I don't know though if there is going to be a simple catch-all solution, or if improved usability here is going to be a game of whack a mole where we fix different ”error conditions” one after another.

**Comment by fpvandoorn** [comment]
I expect that this will be a bit of whack-a-mole (see *Implementation speculation* in my first message). If it works in the 90% most common cases, that is already very helpful.

**Comment by gaearon** [comment]
Another case where this is particularly painful is during a `rintro`. I constantly need to double check what the pattern is (and what I've entered so far) but as soon as I type a comma or start typing an inner `\<`, it messes up the right pane and I lose all context. The amount of time I'm spending erasing my commas and then adding them back while juggling the names of different terms and their types in my brain's short-term memory is embarrassing.

<img width="1156" alt="Image" src="https://github.com/user-attachments/assets/8b0c667d-37d3-4e45-ba01-c3bcc4649a5b" />

**Comment by gaearon** [comment]
More concretely, this is how I'm spending half of my time in proofs:

https://github.com/user-attachments/assets/716f1e3e-8749-403f-9bbd-2a3f68a6918e

**Comment by Kha** [comment]
@fpvandoorn @gaearon I have partitioned this feature request into two specific technical limitations: #7135 #7136. Does this roughly look like it should cover your cases?

**Comment by fpvandoorn** [comment]
This looks good. Here are a few more examples what you could encounter while typing a tactic line. I expect that the first 5 are solved by #7135? Maybe the 6th as well? But I'm not sure if the last two are covered by either two PRs (they are not syntax errors) 
```lean
example : True := by
  obtain ⟨x, y\

example : True := by
  obtain \

example : Nat → True := by
  intro (

example : Nat → True := by
  rintro (x|y(

example : Nat × Nat → True := by
  intro ⟨x, 

example : True := by
  apply

example : Nat × Nat → True := by
  intro ⟨x⟩ 
  
example : Nat → True := by
  intro ⟨x⟩
```
There might be other tactic

**Comment by Kha** [comment]
Thanks for the further examples. The second half should be covered by #7136 except for the second-to-last example, that seems to be an issue internal to rcases.
